US06521753B1
5-Nitro-1,3,3-trimethyl-indoline (8.16 g, 40 mmole) was added to a solution of stannous chloride (53 g, 280 mmole) in 200 ml hydrochloric acid with stirring. The mixture was gently refluxed for 16 hrs. The cold reaction mixture was poured onto crushed ice, made alkaline with a concentrated solution of sodium hydroxide and extracted with ethyl acetate (4×200 ml). The combined ethyl acetate solutions were dried with anhydrous sodium sulphate and decolorized with a small amount of active carbon. Solvent was removed and the residue re-crystallized from ethyl acetate to 5.96 g of a yellow solid, an 80% yield of 5-amino-1,3,3-trimethyl-indoline.

reactant | 5-Nitro-1,3,3-trimethyl-indoline | 40 mmole, 8.16 g | [N+](=O)([O-])C=1C=C2C(CN(C2=CC1)C)(C)C | C11H14N2O2
reactant | sodium hydroxide | [OH-].[Na+]
solvent | hydrochloric acid | 200 ml | Cl | ClH
product | 5-amino-1,3,3-trimethyl-indoline | 80% yield | NC=1C=C2C(CN(C2=CC1)C)(C)C | C11H16N2
